US08084448B2
C. N-{(1R*,2S*)-2-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-cyclohexyl}-acetamide
To a solution of N-((1R*,2S*)-2-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-benzyl}-cyclohexyl)-acetamide (76 mg, 0.133 mmol) in DMF (3 mL) is added CsF (81 mg, 0.533 mmol) and the mixture is stirred at 90° C. for 1 h. Ethyl acetate is added and the mixture is washed with 1N HCl and brine. The organic phase is dried over magnesium sulfate and the solvent removed under reduced pressure to give the title compound which is used directly in the next step.

reactant | N-((1R*,2S*)-2-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-benzyl}-cyclohexyl)-acetamide | 0.133 mmol, 76 mg | C(C1=CC=CC=C1)OC=1C=C(C[C@H]2[C@@H](CCCC2)NC(C)=O)C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O | C29H41N3O5SSi
reactant | CsF | 0.533 mmol, 81 mg | [F-].[Cs+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-{(1R*,2S*)-2-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-cyclohexyl}-acetamide | C(C1=CC=CC=C1)OC=1C=C(C[C@H]2[C@@H](CCCC2)NC(C)=O)C=CC1N1S(NC(C1)=O)(=O)=O | C24H29N3O5S
